US07915267B2
4-oxo-N-{[4′-({[(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)methyl]sulfonyl}methyl)biphenyl-3-yl]methyl}-3,4-dihydroquinazoline-2-carboxamide
A solution of 5-[({[3′-(aminomethyl)biphenyl-4-yl]methyl}sulfonyl)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one obtained in Reference Example 111 (0.060 g, 0.167 mmol), ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate obtained according to the methods described in Journal of Organic Chemistry (1978), 43(23), 4485-7 and the like (0.024 g, 0.112 mmol) and triethylamine (0.389 mL, 1.12 mmol) in EtOH (3 mL)-DMA (3 mL) was stirred at 90° C. for 24 hr. The reaction mixture was diluted with ethyl acetate, washed with 0.1N hydrochloric acid and saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was crystallized from EtOH-diethyl ether to give the title compound as a pale-yellow powder (0.032 g, 55%).

reactant | 5-[({[3′-(aminomethyl)biphenyl-4-yl]methyl}sulfonyl)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | NCC=1C=C(C=CC1)C1=CC=C(C=C1)CS(=O)(=O)CC=1NC(NN1)=O | C17H18N4O3S
reactant | ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate | O=C1NC(=NC2=CC=CC=C12)C(=O)OCC | C11H10N2O3
reactant | triethylamine | 1.12 mmol, 0.389 mL | C(C)N(CC)CC | C6H15N
reactant | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-oxo-N-{[4′-({[(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)methyl]sulfonyl}methyl)biphenyl-3-yl]methyl}-3,4-dihydroquinazoline-2-carboxamide | 0.032 g, 55% | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC=1C=C(C=CC1)C1=CC=C(C=C1)CS(=O)(=O)CC1=NNC(N1)=O | C26H22N6O5S
